US09422292B2
A solution of 8-fluoro-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one (6.2 g, 32 mmol) and Lawesson's reagent (25.9 g, 64 mmol) in tetrahydrofuran (300 mL) was heated at 80° C. for 1 hour. The mixture was concentrated in vacuo, and the residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5:1-2:1) to afford 8-fluoro-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione as a pale green solid (10.0 g, crude).

reactant | 8-fluoro-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 32 mmol, 6.2 g | FC=1C=CC2=C(NC(C(CN2)C)=O)C1 | C10H11FN2O
reactant | Lawesson's reagent | 64 mmol, 25.9 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 8-fluoro-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione | FC=1C=CC2=C(NC(C(CN2)C)=S)C1 | C10H11FN2S
